US08222248B2
To a stirred suspension of 2-(2,6-dichlorophenyl)-6,7-difluoro-3H-benzoimidazole-5-carbonyl chloride (150 mg, 0.38 mmol) and quinolin-2-ylamine (55 mg, 0.38 mmol) in THF (10 mL) was added DIPEA (0.2 ml, 1.14 mmol) and the solution was heated at 60° C. for 4 days. The reaction was quenched with water and aqueous layer was extracted with EtOAc. The organic layer was washed with water, brine, dried with MgSO4, and filtered. The solvent was removed under reduced pressure and the residue was purified by flash chromatography using a gradient of heptane/EtOAc (4:1 to 100% EtOAc) to give 2-(2,6-dichlorophenyl)-6,7-difluoro-3H-benzoimidazole-5-carboxylic acid quinolin-2-ylamide as a white solid. 1H NMR (DMSO-d6, 400 MHz): δ 13.67 (s, 1H), 11.26 (s, 1H), 8.47 (d, 1H), 8.41 (d, 1H), 7.98 (d, 1H), 7.87 (d, 1H), 7.81 (d, 1H), 7.77 (m, 4H), 7.56 (m, 1H). MS (m/z) 469.1 (M+1); Retention time: 1.51 min (Method 10).

reactant | 2-(2,6-dichlorophenyl)-6,7-difluoro-3H-benzoimidazole-5-carbonyl chloride | 0.38 mmol, 150 mg | ClC1=C(C(=CC=C1)Cl)C=1NC2=C(N1)C(=C(C(=C2)C(=O)Cl)F)F | C14H5Cl3F2N2O
reactant | quinolin-2-ylamine | 0.38 mmol, 55 mg | N1=C(C=CC2=CC=CC=C12)N | C9H8N2
reactant | DIPEA | 1.14 mmol, 0.2 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-(2,6-dichlorophenyl)-6,7-difluoro-3H-benzoimidazole-5-carboxylic acid quinolin-2-ylamide | N1=C(C=CC2=CC=CC=C12)NC(=O)C1=CC2=C(N=C(N2)C2=C(C=CC=C2Cl)Cl)C(=C1F)F | C23H12Cl2F2N4O
